US07179934B2
(4R,5R)-4,5-Dimethyl-3-oxo-octanoic acid ethyl ester (Alternative C)
To a solution containing 1.0 g (6.9 mmol) of (2R,3R)-2,3-dimethyl-hexanoic acid in 10 mL of dichloromethane was added 1.1 g of chloromethylene dimethyl-ammonium chloride (8.3 mmol). The resulting solution was stirred under nitrogen for 1.5 hours. The solvent was subsequently evaporated to give (2R,3R)-2,3-dimethyl-hexanoyl chloride. To a solution containing 2.5 g (14.6 mmol) of potassium monoethyl malonate in 50 mL of acetonitrile was added 1.7 g (17.3 mmol) of magnesium chloride and 1.2 g (11.4 mmol) of triethylamine. The resulting mixture was stirred at room temperature for 2.5 hours. The reaction was cooled to 0° C. and a solution of the (2R,3R)-2,3-dimethyl-hexanoyl chloride in acetonitrile (20 mL) was slowly added followed by the addition of triethylamine (0.4 g, 0.4 mmol). The reaction was heated to 40° C. and stirred at that temperature for 6 hours. The reaction mixture was cooled to 25° C., quenched with a saturated solution of ammonium chloride and extracted into ethyl acetate. The solution was washed with brine, dried over MgSO4 and concentrated. The resulting residue was filtered through a silica plug, eluting with 60/40 solution of hexane/ethyl acetate to afford 1.3 g (87.8% yield) of the titled compound as an oil.

reactant | potassium monoethyl malonate | 14.6 mmol, 2.5 g | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | magnesium chloride | 17.3 mmol, 1.7 g | [Cl-].[Mg+2].[Cl-]
reactant | triethylamine | 11.4 mmol, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | (2R,3R)-2,3-dimethyl-hexanoyl chloride | C[C@@H](C(=O)Cl)[C@@H](CCC)C | C8H15ClO
reactant | triethylamine | 0.4 mmol, 0.4 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (4R,5R)-4,5-Dimethyl-3-oxo-octanoic acid ethyl ester | 1.3 g, 87.8% yield | C(C)OC(CC([C@@H]([C@@H](CCC)C)C)=O)=O | C12H22O3
